US07285558B2
(b) 2-[(5-chloro-1H-indol-3-yl)methyl]-5-methyl-7-(3-methylbutyl)-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was synthesized by the reaction of 2-[(5-chloro-1H-indol-3-yl)methyl]-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione and 1-bromo-3-methylbutane using potassium carbonate as a base in DMF at 80° C. Mass: 480.16 (M+H).

reactant | 2-[(5-chloro-1H-indol-3-yl)methyl]-5-methyl-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2NC(N(C(C2=C1C=1N(C=CN1)C)=O)C)=O | C19H16ClN7O2
reactant | 1-bromo-3-methylbutane | BrCCC(C)C | C5H11Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-[(5-chloro-1H-indol-3-yl)methyl]-5-methyl-7-(3-methylbutyl)-3-(1-methyl-1H-imidazol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CNC2=CC1)CN1N=C2N(C(N(C(C2=C1C=1N(C=CN1)C)=O)C)=O)CCC(C)C | C24H26ClN7O2
